US05912245
To a solution of 7.31 g (0.1 mole) of n-butylamine in 20 ml of water 5.21 g (0.02 mole) of 1,2,3,4-tetrahydro-2,3-dioxo-6-quinoxalinesulfonyl chloride are added, and the mixture is stirred at room temperature for 5 hours. Then it is allowed to stand for 16 hours, the separated crystals are filtered off, washed with water, dried and recrystallized from acetone. Thus 4.50 g (76%) of N-(n-butyl)-1,2,3,4-tetrahydro-2,3-dioxo-6-quinoxaline sulfonamide are obtained, m.p.: 257-262° C.

reactant | n-butylamine | 0.1 mole, 7.31 g | C(CCC)N | C4H11N
reactant | water | 0.02 mole, 20 ml, 5.21 g | O | H2O
reactant | 1,2,3,4-tetrahydro-2,3-dioxo-6-quinoxalinesulfonyl chloride | O=C1NC2=CC=C(C=C2NC1=O)S(=O)(=O)Cl | C8H5ClN2O4S
product | N-(n-butyl)-1,2,3,4-tetrahydro-2,3-dioxo-6-quinoxaline sulfonamide | 4.50 g, 76% | C(CCC)NS(=O)(=O)C=1C=C2NC(C(NC2=CC1)=O)=O | C12H15N3O4S
